US05659065
e1) 4-Methoxy-3-(3-methoxypropoxy)-benzyl bromide
Trimethylsilyl bromide (97 ml) is added dropwise to a solution of 4-methoxy-3-(3-methoxypropoxy)-benzyl alcohol (111.1 g) in chloroform (1.31 liters), the reaction temperature being maintained at 10°-25° C. by cooling with ice. When the addition is complete, the mixture is stirred for a further 10 minutes at room temperature and concentrated under reduced pressure. The residue is purified by FC on silica gel (ethyl acetate/hexane 1:3) and after recrystallisation from hexane the title compound (144.5 g) is obtained in the form of a white crystalline solid: m.p. 50-51° C. Rf (ethyl acetate/hexane 1:2)=0.34.

reactant | Trimethylsilyl bromide | 97 ml | C[Si](C)(C)Br | C3H9BrSi
reactant | 4-methoxy-3-(3-methoxypropoxy)-benzyl alcohol | 111.1 g | COC1=C(C=C(CO)C=C1)OCCCOC | C12H18O4
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | chloroform | 1.31 liters | C(Cl)(Cl)Cl | CHCl3
product | 4-Methoxy-3-(3-methoxypropoxy)-benzyl bromide | COC1=C(C=C(CBr)C=C1)OCCCOC | C12H17BrO3
